US04925591
In a mixed solvent of methanol and tetrahydrofuran was dissolved 5.17 g of 4-hydroxy-3-chlorobenzoic acid, and a solution of 2.4 g of sodium hydroxide in 5 ml of water was added to the solution. Then, 10 ml of n-dodecyl bromide was added dropwise to the mixture and the resulting mixture was refluxed for 2 hours. Then, 1.2 g of sodium hydroxide was further added and the mixture was refluxed for 1 hour. The thus-obtained solution was put in a 1N aqueous solution of hydrochloric acid, and the precipitate was recovered and filtration, washed with water and then with n-hexane and recrystallized from ethyl acetate to obtain 4.1 g of 4-n-dodecyloxy-3-chlorobenzoic acid.

reactant | 4-hydroxy-3-chlorobenzoic acid | 5.17 g | OC1=C(C=C(C(=O)O)C=C1)Cl | C7H5ClO3
reactant | sodium hydroxide | 2.4 g | [OH-].[Na+]
reactant | n-dodecyl bromide | 10 ml | C(CCCCCCCCCCC)Br | C12H25Br
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 4-n-dodecyloxy-3-chlorobenzoic acid | 4.1 g | C(CCCCCCCCCCC)OC1=C(C=C(C(=O)O)C=C1)Cl | C19H29ClO3
